US08623889B2
Step 2: 2-fluoro-3-iodo-4-methylbenzoic acid
To a solution of 2-fluoro-3-iodo-4-methylbenzonitrile (3.9385 g, 11.316 mmol; 76% mass % pure) in 1,4-dioxane (10.0 mL, 128 mmol) was added water (4.0 mL, 220 mmol) and sulfuric acid (6.0 mL, 110 mmol). The reaction mixture was heated at 110° C. for 20 hours. The reaction mixture was cooled to room temperature and then poured into ˜200 mL ice water. The resulting tan precipitate was collected by filtration, washed with water and ethyl acetate, and dried under vacuum to provide the title product. The filtrate was transferred to a separatory funnel, and the ethyl acetate layer was separated, washed with brine, dried over MgSO4, and evaporated in vacuo to yield additional desired product for a combined yield of 3.8743 g which was carried forward without purification.

reactant | 2-fluoro-3-iodo-4-methylbenzonitrile | 11.316 mmol, 3.9385 g | FC1=C(C#N)C=CC(=C1I)C | C8H5FIN
reactant | 1,4-dioxane | 128 mmol, 10.0 mL | O1CCOCC1 | C4H8O2
reactant | water | 220 mmol, 4.0 mL | O | H2O
reactant | sulfuric acid | 110 mmol, 6.0 mL | S(O)(O)(=O)=O | H2O4S
product | 2-fluoro-3-iodo-4-methylbenzoic acid | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
